US07074777B2
(6) 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene
To 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione adduct (6.3 g), was added 1,3-dimethyl-2-imidazolidinone (100 ml), followed by heating at 140° C. for 3 hours. The reaction mixture was extracted with hexane, the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove the solvent. The thus obtained residue was purified by column chromatography (hexane:ethyl acetate=5:1) to give the titled compound (3.61 g).

reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene 4-phenyl-1,2,4-triazoline-3,5-dione | 6.3 g | C1(=CC=CC=C1)N1C(N=NC1=O)=O.[Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C
solvent | 1,3-dimethyl-2-imidazolidinone | 100 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17β-(hydroxymethyl)androsta-5,7-diene | 3.61 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]12C)CO)O[Si](C)(C)C(C)(C)C | C32H58O3Si2
